US07186715B2
Step 1: 2-Bromo-3-fluoro-anisole
The 3-fluoro anisole (15 g, 119 mmol) was placed in THF (300 mL) and cooled to about −78° C., and then n-BuLi (89 mL 1.6 M in hexanes) was added while maintaining the temperature at around −70° C. The mixture was stirred for about 15 minutes, and bromine (18.9 g, 119 mmol) was added over 10 minutes. The mixture was warmed to r.t. and stirred overnight. The mixture was quenched with water, diluted with ether (500 mL) and partitioned between water/ether (1/1 300 mL). The water layer was back extracted with ether (250 mL), and the combined organic fractions were dried, filtered and concentrated. The dark residue was distilled under house vacuum (product 115–130° C.) to recover about 13.8 g of the product as a gray oil (57%).

reactant | 3-fluoro anisole | 119 mmol, 15 g | FC=1C=C(C=CC1)OC | C7H7FO
reactant | n-BuLi | 1.6 M, 89 mL | [Li]CCCC
reactant | bromine | 119 mmol, 18.9 g | BrBr | Br2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-Bromo-3-fluoro-anisole | BrC1=C(C=CC=C1F)OC | C7H6BrFO
